US07153861B2
5-(2-hydroxyethyl)-2-thiouracil
A solution of ethyl formate (33.1 ml, 2.1 equiv) and γ-butyrolactone (15 ml, 1 equiv) in ether (400 ml) was added dropwise with stirring to a solution of potassium t-butoxide (52.5 g, 2.4 equiv) in tetrahydrofuran (400 ml). The mixture was allowed to warm to room temperature, and stirred overnight. The solvent was removed in vacuo, 2-propanol (600 ml) and thiourea (29.7 g, 2 equiv) were added, and the mixture was heated to reflux for 5 h. After cooling to room temperature, the precipitate was filtered off, dissolved in water (500 ml), and washed twice with ether. The aqueous solution was acidified to pH5.5 with acetic acid, and the resulting precipitate was filtered off, washed thoroughly with water, and dried in vacuo; yield 23.85 g. 1H-NMR (d6-DMSO) δ 2.36 (2H, t), 3.47 (2H, m), 4.57 (1H, m), 7.24 (1H, s), 12.2 & 12.4 (each 1H, br s); MS (APCI−) found (M−H)=171; C6H8N2O2S requires 172.

reactant | ethyl formate | 33.1 ml, 2.1 equiv | C(=O)OCC | C3H6O2
reactant | γ-butyrolactone | 15 ml, 1 equiv | C1(CCCO1)=O | C4H6O2
reactant | potassium t-butoxide | 52.5 g, 2.4 equiv | CC(C)([O-])C.[K+]
reactant | thiourea | 29.7 g, 2 equiv | NC(=S)N | CH4N2S
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | 2-propanol | 600 ml | CC(C)O | C3H8O
product | 5-(2-hydroxyethyl)-2-thiouracil | OCCC=1C(NC(NC1)=S)=O | C6H8N2O2S
